### PR TITLE
feat: add `BitVec.msb_(smod, srem)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `BitVec.msb_(smod, srem)`. 

co-authored with @tobiasgrosser and @bollu

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -334,7 +334,7 @@ theorem add_eq_or_of_and_eq_zero {w : Nat} (x y : BitVec w)
     (h : x &&& y = 0#w) : x + y = x ||| y := by
   rw [add_eq_adc, adc, iunfoldr_replace (fun _ => false) (x ||| y)]
   · rfl
-  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
+  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -620,7 +620,7 @@ theorem setWidth_setWidth_succ_eq_setWidth_setWidth_add_twoPow (x : BitVec w) (i
         simp [hik', hik'']
         omega
   · ext k
-    simp only [and_twoPow, 
+    simp only [and_twoPow,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ddbba944d42a1479ec9e4f350b9a270b008c01f0 --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-24 15:32:41)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1930,6 +1930,37 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
         Int.dvd_neg] at hdvd
       simp only [hdvd, ↓reduceIte, Int.natAbs_cast]
 
+theorem srem_zero_of_dvd (x y : BitVec w) (h : y.toInt ∣ x.toInt) :
+    x.srem y = 0#w := by
+  have := toInt_dvd_toInt_iff (x := x) (y := y)
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  <;> simp only [h, hx, reduceIte, hy, false_eq_true, true_iff] at this
+  <;> simp [srem, hx, hy, this]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1938]: Can this move into the `Lemmas.lean` file?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1930,6 +1930,37 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
+
+theorem msb_srem (x y : BitVec w) : (x.srem y).msb =
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem msb_srem {x y : BitVec w} : (x.srem y).msb =
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1930,6 +1930,37 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
         Int.dvd_neg] at hdvd
       simp only [hdvd, ↓reduceIte, Int.natAbs_cast]
 
+theorem srem_zero_of_dvd (x y : BitVec w) (h : y.toInt ∣ x.toInt) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem srem_zero_of_dvd {x y : BitVec w} (h : y.toInt ∣ x.toInt) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1930,6 +1930,37 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
+    x.srem y = 0#w := by
+  have := toInt_dvd_toInt_iff (x := x) (y := y)
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  <;> simp only [h, hx, reduceIte, hy, false_eq_true, true_iff] at this
+  <;> simp [srem, hx, hy, this]
+
+theorem msb_srem (x y : BitVec w) : (x.srem y).msb =
+    (x.msb && decide (x.srem y ≠ 0)) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1947]: Do we need the () around the RHS?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -1998,6 +2029,29 @@ theorem getMsbD_smod {x y : BitVec w} :
...
+      rw [toInt_smod] at h
+      have := toInt_nonneg_of_msb_false (by simp at hy; exact hy)
+      have := Int.fmod_nonneg_of_pos (a := x.toInt) (b := y.toInt) (by simp [← toInt_inj] at hcontra; omega)
+      omega
+    · intro h
+      simp only [h, smod_zero]
+      exact toInt_neg_of_msb_true hx
+  · by_cases hsmod : x.smod y = 0#w <;> simp [hx, hy, hsmod]
+  · simp [hx, hy, toInt_smod]
+    simp at hx hy
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Two non-terminal simps.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1938]: sadly not, as it depends on `toInt_dvd_toInt_iff` which lives in `Bitblast` (we can consider moving both, but I would rather not doing it in this PR)

File: src/Init/Data/BitVec/Bitblast.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: accepted

File: src/Init/Data/BitVec/Bitblast.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: accepted

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1947]: yes, otherwise, it becomes `((x.srem y).msb = x.msb) && decide (x.srem y ≠ 0)` automatically

File: src/Init/Data/BitVec/Bitblast.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -1930,6 +1930,37 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
 
+theorem srem_zero_of_dvd {x y : BitVec w} (h : y.toInt ∣ x.toInt) :
+    x.srem y = 0#w := by
+  have := toInt_dvd_toInt_iff (x := x) (y := y)
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  <;> simp only [h, hx, reduceIte, hy, false_eq_true, true_iff] at this
+  <;> simp [srem, hx, hy, this]
+
+theorem msb_srem {x y : BitVec w} : (x.srem y).msb =
+    (x.msb && decide (x.srem y ≠ 0)) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1947]:
```suggestion
/--
The remainder for `srem`, i.e. division with rounding to zero is negative
iff `x` is negative and `y` does not divide `x`.

We can eventually build fast circuits for the divisibility test `x.srem y = 0`.
-/ 
theorem msb_srem {x y : BitVec w} : (x.srem y).msb =
    (x.msb && decide (x.srem y ≠ 0)) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -1930,6 +1930,43 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
+-/ 
+theorem msb_srem {x y : BitVec w} : (x.srem y).msb =
+    (x.msb && decide (x.srem y ≠ 0)) := by
+  rw [msb_eq_toInt]
+  by_cases hx : x.msb
+  · by_cases hsrem : x.srem y = 0#w
+    · simp [hsrem]
+    · have := toInt_neg_of_msb_true hx
+      by_cases hdvd : y.toInt ∣ x.toInt
+      · simp [BitVec.srem_zero_of_dvd x y hdvd] at hsrem
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      · simp [BitVec.srem_zero_of_dvd hdvd] at hsrem
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -1930,6 +1930,43 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
+    · have := toInt_neg_of_msb_true hx
+      by_cases hdvd : y.toInt ∣ x.toInt
+      · simp [BitVec.srem_zero_of_dvd hdvd] at hsrem
+      · simp only [toInt_srem, Int.tmod_eq_emod, show ¬0 ≤ x.toInt by omega, hdvd, _root_.or_self,
+          reduceIte, hx, ofNat_eq_ofNat, ne_eq, hsrem, not_false_eq_true, decide_true, Bool.and_self,
+          decide_eq_true_eq, gt_iff_lt]
+        have hlt := Int.emod_lt (a := x.toInt) (b := y.toInt)
+        by_cases hy0 : y = 0#w
+        · simp [hy0]
+          exact toInt_neg_of_msb_true hx
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: This is not simp nf.

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -1930,6 +1930,43 @@ theorem toInt_sub_neg_umod {x y : BitVec w} (hxmsb : x.msb = true) (hymsb : y.ms
...
+    · simp [hsrem]
+    · have := toInt_neg_of_msb_true hx
+      by_cases hdvd : y.toInt ∣ x.toInt
+      · simp [BitVec.srem_zero_of_dvd hdvd] at hsrem
+      · simp only [toInt_srem, Int.tmod_eq_emod, show ¬0 ≤ x.toInt by omega, hdvd, _root_.or_self,
+          reduceIte, hx, ofNat_eq_ofNat, ne_eq, hsrem, not_false_eq_true, decide_true, Bool.and_self,
+          decide_eq_true_eq, gt_iff_lt]
+        have hlt := Int.emod_lt (a := x.toInt) (b := y.toInt)
+        by_cases hy0 : y = 0#w
+        · simp [hy0]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
        · simp only [hy0, toInt_zero, Int.emod_zero, Int.natAbs_zero, Int.cast_ofNat_Int,
            Int.sub_zero, gt_iff_lt]
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed
